US07294644B2
Preparation of 2-(2-Chloro-phenyl)-5-methyl-1H-imidazole-4-carboxylic acid:
To 11.2 g of 2-(2-chloro-phenyl)-5-methyl-1H-imidazole-4-carboxylic acid ethyl ester in 150 ml of ethanol was added 80 ml of a 2N-NaOH solution and the reaction mixture was stirred at 95° C. for 17 hours. After such time ethanol was removed in vacuo and the remaining aqueous solution was treated with a 2N HCl solution until obtaining pH=3. The precipitate was filtered and dried under high vacuum to yield 9.0 g of a pale yellow powder.

reactant | 2-(2-chloro-phenyl)-5-methyl-1H-imidazole-4-carboxylic acid ethyl ester | 11.2 g | C(C)OC(=O)C=1N=C(NC1C)C1=C(C=CC=C1)Cl | C13H13ClN2O2
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(2-Chloro-phenyl)-5-methyl-1H-imidazole-4-carboxylic acid | 9.0 g | ClC1=C(C=CC=C1)C=1NC(=C(N1)C(=O)O)C | C11H9ClN2O2
